US04859229
usinq 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione with dimethyl sulphate and sodium hydride in dimethylformamide there is obtained 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-1-methyl-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione, m.p. 143°-145° C.

reactant | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione | ClC1=CC(=C(C=C1OC(C)C)N1C(NC=2CCCCC2C1=O)=O)F | C17H18ClFN2O3
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | sodium hydride | [H-].[Na+]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(4-chloro-2-fluoro-5-isopropoxyphenyl)-1-methyl-5,6,7,8-tetrahydro-2,4(1H,3H)-quinazolinedione | ClC1=CC(=C(C=C1OC(C)C)N1C(N(C=2CCCCC2C1=O)C)=O)F | C18H20ClFN2O3
